US08703808B2
(Z)-3-(3,5-dimethoxy-phenyl)-2-(5-methoxy-1H-indol-3-yl)-acrylonitrile
To a solution of sodium methanolate (61 mg, 1.1 mmol, 1.4 eq.) in anhydrous ethanol (10 mL) were added, under an argon atmosphere, (5-methoxy-1H-indol-3-yl)-acetonitrile (150 mg, 0.8 mmol, 1.0 eq.) and, after 30 minutes stirring, 2,4-dimethoxy-benzaldehyde (200 mg, 1.2 mmol, 1.5 eq.). The reaction apparatus was protected from light and the mixture stirred at room temperature for 3 days. The solvent was removed under reduced pressure and the residue purified by silica gel flash-column chromatography (eluent: CH2Cl2/EtOH, 100:0 to 98:2) to afford, after trituration with diethyl ether, the compound (14) as a yellow powder (85 mg, 32%). TLC: Rf=0.55 (CH2Cl2 96/EtOH 4); mp: 141° C.; IR νmax (cm-1): 2212 (νCN), 3400 (νN—H); 1H NMR (DMSO, 300 MHz): δ (ppm): 3.81 (6H, s, 3″-methoxy and 5″-methoxy), 3.82 (3H, s, 5′-methoxy), 6.58 (1H, s, H4″), 6.89 (1H, dd, J6′-7′=8.9 Hz, J6′-4′=2.1 Hz, H6′), 7.11 and 7.12 (2H, m, H2″ and H6″), 7.39 (1H, d, J7′-6′=8.9 Hz, H7′), 7.44 (1H, d, J4′-6′=2.1 Hz, H4′), 7.64 (1H, s, H2′), 7.74 (1H, s, H3), 11.60 (1H, s, H indolic H); 13C NMR (DMSO, 75.5 MHz): δ (ppm): 55.8 (3″-methoxy and 5″-methoxy), 56.0 (5′-methoxy), 101.8 (C4′), 102.3 (C4″), 106.7 (C2), 107.0 (C2″ and C6″), 110.7 (C3′), 112.7 (C6′), 113.6 (C7′), 118.9 (C1), 124.5 (C3a′), 127.6 (C2′), 132.7 (C7a′), 136.5 (C3), 136.9 (C1″), 154.9 (C5′), 161.0 (C3″ and C5″); ESI-MS: m/z 357.1 ([M+Na]+); HRESI-MS: m/z 357.1219 (calcd for C20H18N2O3Na, 357.1205); Anal. Calcd for C20H18N2O2, 0.2 H2O: C, 71.08; H, 5.49; N, 8.29; O, 15.15. Found: C, 70.89; H, 5.23; N, 8.34.

reactant | sodium methanolate | 1.1 mmol, 61 mg, 1.4 eq. | C[O-].[Na+]
reactant | (5-methoxy-1H-indol-3-yl)-acetonitrile | 0.8 mmol, 150 mg, 1.0 eq. | COC=1C=C2C(=CNC2=CC1)CC#N | C11H10N2O
reactant | 2,4-dimethoxy-benzaldehyde | 1.2 mmol, 200 mg, 1.5 eq. | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | EtOH | CCO | C2H6O
solvent | H2O | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (Z)-3-(3,5-dimethoxy-phenyl)-2-(5-methoxy-1H-indol-3-yl)-acrylonitrile | COC=1C=C(C=C(C1)OC)\C=C(/C#N)\C1=CNC2=CC=C(C=C12)OC | C20H18N2O3
